US06399636B2
A mixture of 3-hydroxy-4-difluoromethoxybenzaldehyde (77 g, 409 mmol), 1-bromo-2-chloroethane (176 g, 1.23 mol) and Cs2CO3 (146 g, 449 mmol) in DMF (2 L) was stirred at 70° C. for 3 h and at 55° C. for 15 h. The mixture was cooled to room temperature and partitioned between ethyl acetate (1 L) and water (2 L). The aqueous layer was extracted with ethyl acetate (2×) and the combined organics were washed with water, dried (Na2SO4) and concentrated. Flash chromatography of the residue (silica gel; hexane/ethyl acetate 4:1 to 7:3) provided the 3-(2-Chloro)ethoxy-4-difluoromethoxybenzaldehyde compound (87 g).

reactant | 3-hydroxy-4-difluoromethoxybenzaldehyde | 409 mmol, 77 g | OC=1C=C(C=O)C=CC1OC(F)F | C8H6F2O3
reactant | 1-bromo-2-chloroethane | 1.23 mol, 176 g | BrCCCl | C2H4BrCl
reactant | Cs2CO3 | 449 mmol, 146 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 2 L | CN(C)C=O | C3H7NO
product | 3-(2-Chloro)ethoxy-4-difluoromethoxybenzaldehyde | 87 g | ClCCOC=1C=C(C=O)C=CC1OC(F)F | C10H9ClF2O3
